US08293737B2
a) 2-Hydroxy-5-nitro-nicotinic acid
To 2-hydroxy-nicotinic acid (3.6 mmol) in sulfuric acid (30% free SO3, 2 ml) was added sodium nitrate (7.2 mmol) portionwise over 20 min. The solution was allowed to stir for 20 h at room temperature. The solution was then poured onto ice-water and the precipitate that formed was filtered off, washed with water and dried in a vacuum oven to afford a pale yellow solid (45%).

reactant | 2-hydroxy-nicotinic acid | 3.6 mmol | OC1=C(C(=O)O)C=CC=N1 | C6H5NO3
reactant | sodium nitrate | 7.2 mmol | [N+](=O)([O-])[O-].[Na+]
solvent | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Hydroxy-5-nitro-nicotinic acid | 45% | OC1=C(C(=O)O)C=C(C=N1)[N+](=O)[O-] | C6H4N2O5
